US05885999
a) 2-[4-(t-Butoxycarbonyl)piperazin-1-yl]benzonitrile
Di-t-butyldicarbonate (2.62 g, 12 mmol) in 1,4-dioxane (8 mL) was added to a mixture of 2-(piperazin-1-yl)benzonitrile (1.87 g, 10 mmol), sodium carbonate (2.65 g, 25 mmol) and 1,4-dioxane (2 mL) in water (30 mL) and the mixture was stirred at room temperature for 22 h. Water (50 mL) was added and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic fractions were washed with brine (50 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (99:1:0.1) to give the title compound as a pale yellow oil (2.65 g, 92%), δH (250 MHz, CDCl3) 7.59 (1H, d, J 7.8 Hz), 7.50 (1H, t, J 7.8 Hz), 7.05 (2H, m), 3.64 (4H, t, J 5.0 Hz), 3.15 (4H, t, J5.0 Hz), and 1.49 (9H, s).

reactant | Di-t-butyldicarbonate | 12 mmol, 2.62 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(piperazin-1-yl)benzonitrile | 10 mmol, 1.87 g | N1(CCNCC1)C1=C(C#N)C=CC=C1 | C11H13N3
reactant | sodium carbonate | 25 mmol, 2.65 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | Water | 50 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-[4-(t-Butoxycarbonyl)piperazin-1-yl]benzonitrile | 2.65 g, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C16H21N3O2
